US08114865B2
Preparation of N-[5-(3,5-difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-2-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-benzamide [(XVII), R1=R2=R3=H, R=3,5-difluorophenyl, R11=1-triphenylmethyl, Ar=4-(4-methyl-piperazin-1-yl)-2-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-phenyl]
To a suspension of 4-(4-methyl-piperazin-1-yl)-2-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-benzoic acid trifluoroacetate (2.16 g, 4.1 mmol) in dry dichloromethane (20 mL) were added oxalyl chloride (0.69 mL, 8.2 mmol) and N,N-dimethylformamide (1-2 drops). The mixture was stirred at room temperature for 1.5 hours then evaporated to dryness. The resulting crude acyl chloride was taken-up with toluene and evaporated again then dissolved in dry tetrahydrofuran (30 mL) and N,N-diisopropylethylamine (2.8 mL, 16.4 mmol) and treated with 5-(3,5-difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-ylamine (1.5 g, 2.72 mmol). The mixture was stirred at room temperature overnight then evaporated to dryness. The residue was dissolved in dichloromethane, washed with saturated solution of sodium hydrogenocarbonate and with brine, dried over sodium sulfate and evaporated to dryness. The crude was purified by flash chromatography on silica gel using dichloromethane/acetone 1:1 as the eluant, affording the title compound as a pale yellow solid (2.4 g, 93% yield).

reactant | 4-(4-methyl-piperazin-1-yl)-2-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-benzoic acid trifluoroacetate | 4.1 mmol, 2.16 g | FC(C(=O)O)(F)F.CN1CCN(CC1)C1=CC(=C(C(=O)O)C=C1)N(C(C(F)(F)F)=O)C1CCOCC1
reactant | oxalyl chloride | 8.2 mmol, 0.69 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-diisopropylethylamine | 16.4 mmol, 2.8 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 5-(3,5-difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-ylamine | 2.72 mmol, 1.5 g | FC=1C=C(C=C(C1)F)S(=O)(=O)C=1C=C2C(=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N | C32H23F2N3O2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 1-2 drops | CN(C=O)C | C3H7NO
product | N-[5-(3,5-difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-2-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-benzamide | 2.4 g, 93% yield | FC=1C=C(C=C(C1)F)S(=O)(=O)C=1C=C2C(=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(C1=C(C=C(C=C1)N1CCN(CC1)C)N(C(C(F)(F)F)=O)C1CCOCC1)=O | C51H45F5N6O5S
